US04463173
To a solution of diphenylmethyl 3-acetoxymethyl-7-dibromomethyleneaminoceph-3-em-4-carboxylate (0.608 g., 1 mmole) in THF stirred under nitrogen at ambient temperature was added orthophenylenediamine (0.216 g., 2 mmole) in THF and the reaction was allowed to continue stirring for 4 hours. The solution was then evaporated to dryness and the residue was dissolved in CH2Cl2 containing a little methanol. This solution was chromatographed on silica gel (50 g.) at -40° using CH2Cl2 /MeOH 85:15 v/v as eluant to give diphenylmethyl 3-acetoxymethyl-7-(benzimidazol-2-yl)aminoceph-3-em-4-carboxylate (0.39 g.). The product had the following n.m.r. spectrum in CDCl3 : 1.92(s,3H); 3.25(m,2H); 4.57(d,1H); 4.97(d,1H); 5.15(d,1H); 5.90(d,1H); 6.85(s,1H); 3.25(m,10H).

reactant | diphenylmethyl 3-acetoxymethyl-7-dibromomethyleneaminoceph-3-em-4-carboxylate | 1 mmole, 0.608 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2N=C(Br)Br)=O | C24H20Br2N2O5S
reactant | orthophenylenediamine | 2 mmole, 0.216 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | THF | C1CCOC1 | C4H8O
product | diphenylmethyl 3-acetoxymethyl-7-(benzimidazol-2-yl)aminoceph-3-em-4-carboxylate | 0.39 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC=2NC1=C(N2)C=CC=C1)=O | C30H26N4O5S
